US04147864
(avi) 3.78 g (30 mmols) of dimethylsulphate and 30 ml of 20 percent strength aqueous potassium bicarbonate solution are added to a suspension of 6.72 g (10 mmols) of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester (crystalline) and 0.36 g (1 mmol) of tetra-n-butylammonium iodide in 100 ml of toluene and the mixture is stirred vigorously for 4 hours at room temperature. During the first 15 minutes, the solid dissolves. The mixture is diluted with toluene and washed with saturated aqueous sodium chloride solution. After drying the organic phase with sodium sulphate, and concentrating it, crystallisation from ethyl acetate/diethyl ether gives 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid diphenylmethyl ester.

reactant | dimethylsulphate | 30 mmols, 3.78 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | 10 mmols, 6.72 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C35H32N2O8S2
catalyst | tetra-n-butylammonium iodide | 1 mmol, 0.36 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(/C)\OC)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C36H34N2O8S2
